US08420817B2
8.2 N-(6-Hydroxy-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-yl)-5-trifluoromethyl-1-(3-fluorobenzyl)-1H-indole-2-carboxamide (Compound 32)
A solution of 0.065 g (0.07 mmol) of 3-[[[1-(3-fluorobenzyl)-5-trifluoromethyl-1H-indol-2-yl]carbonyl]amino]-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl pyridine-2-carboxylate, prepared in Example 8.1, in 10 ml of chloroform is admixed with 0.022 g (0.7 mmol) of methanol and 0.0127 g (0.07 mmol) of copper acetate. After seven hours of stirring at ambient temperature, the reaction mixture is diluted with 10 ml of dichloromethane and 10 ml of aqueous ammonia, with stirring. The organic phase is separated, washed with 10 ml of water, dried over sodium sulfate and concentrated under reduced pressure. The resulting product is subsequently purified by successive chromatography on a silica column and then on a neutral alumina column. This gives 0.012 g of the expected product.

reactant | 3-[[[1-(3-fluorobenzyl)-5-trifluoromethyl-1H-indol-2-yl]carbonyl]amino]-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl pyridine-2-carboxylate | 0.07 mmol, 0.065 g | N1=C(C=CC=C1)C(=O)OC1CCN2C1=NC=1C2=NC=C(C1)NC(=O)C=1N(C2=CC=C(C=C2C1)C(F)(F)F)CC1=CC(=CC=C1)F | C32H22F4N6O3
reactant | methanol | 0.7 mmol, 0.022 g | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ammonia | 10 ml | N | H3N
catalyst | copper acetate | 0.07 mmol, 0.0127 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-(6-Hydroxy-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-3-yl)-5-trifluoromethyl-1-(3-fluorobenzyl)-1H-indole-2-carboxamide | OC1CCN2C1=NC=1C2=NC=C(C1)NC(=O)C=1N(C2=CC=C(C=C2C1)C(F)(F)F)CC1=CC(=CC=C1)F | C26H19F4N5O2
